US07504403B2
3-(2-Amino-propyl)-phenylamine:
A solution {2-[3(Benzhydrylidene-amino)-phenyl]-1-methyl-ethyl}-carbamic acid tert-butyl ester (200 mg, 0.48 mmol) in dichloromethane (5 mL) and trifluoroacetic acid (5 mL) was stirred for 45 min at room temperature. Solvents removed under vacuum and residue suspended in 5 N hydrochloric acid at 60° C. for 20 min. Biphasic system washed with ether and organics discarded. The pH of the aqueous layer was then adjusted to 14 with 10 N sodium hydroxide. Aqueous was then washed three times with dichloromethane (10 mL). Combined organics dried over magnesium sulfate, and product isolated as an amber film after removal of solvent under vacuum. M+1=151.

reactant | {2-[3(Benzhydrylidene-amino)-phenyl]-1-methyl-ethyl}-carbamic acid tert-butyl ester | 0.48 mmol, 200 mg | C(C)(C)(C)OC(NC(CC1=CC(=CC=C1)N=C(C1=CC=CC=C1)C1=CC=CC=C1)C)=O | C27H30N2O2
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
solvent | trifluoroacetic acid | 5 mL | FC(C(=O)O)(F)F | C2HF3O2
product | 3-(2-Amino-propyl)-phenylamine | NC(CC=1C=C(C=CC1)N)C | C9H14N2
